US06313122B1
Preparation of N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-4-hydroxy-1,2-benzenediamine
A solution of 5-(tert-butyldimethylsilyloxy)-2-phthalimido-N-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]aniline (1.34 g, 2.28 mmol) in 1 M hydrazine in methanol (6 mL) was stirred at ambient temperature for 40 h during which time a white precipitate formed. The mixture was further diluted with methylene chloride and cooled with an ice bath then filtered. The filtrate was washed once with saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to yield 890 mg (86%) of the title compound as a tan powder.

reactant | 5-(tert-butyldimethylsilyloxy)-2-phthalimido-N-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]aniline | 2.28 mmol, 1.34 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(NC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C1)N1C(C=2C(C1=O)=CC=CC2)=O | C32H38N4O5Si
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hydrazine | 1 M | NN | H4N2
solvent | methanol | 6 mL | CO | CH4O
product | N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-4-hydroxy-1,2-benzenediamine | 890 mg, 86% | ClC1=CC=C(C(=O)NC=2C(=CC(=CC2)O)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C25H25ClN4O4
